US04739065
In 50 ml of warm ethanol was dissolved 0.5 g of 4,7-dihydro-7-ethyl-2-formyl-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester. The solution was cooled to room-temperature, then 0.2 g of hydroxylamine hydrochloride was added followed by 2 ml of a 5%-solution of sodium hydroxide. After filtration, 4,7-dihydro-7-ethyl-2-hydroxyimino-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester was obtained in a yield of 80%.

reactant | 4,7-dihydro-7-ethyl-2-formyl-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester | 0.5 g | C(C)OC(=O)C=1C(C2=C(N(C1)CC)SC(=C2)C=O)=O | C13H13NO4S
reactant | hydroxylamine hydrochloride | 0.2 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4,7-dihydro-7-ethyl-2-hydroxyimino-4-oxo-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester | yield of 80% | C(C)OC(=O)C=1C(C2=C(N(C1)CC)SC(C2)=NO)=O | C12H14N2O4S
